datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
C1C[S:31][CH+:20][S:41]C1.C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]2[S:31]CCC[S:41]2)=[CH:62]1 10=20
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC/[C:11](=[CH:10]/C)[O:12][Si:13](C)(C)C.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC[C:11]([CH:10](C)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)=[O:12].C[Si+:13](C)C 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72].C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC[O:92][C:71]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72] 10=20
"CCCC[Sn:11](CCCC)(CCCC)[H:10].CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23]>>CCCC[Sn+:11](CCCC)CCCC.CC[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[N:82]1[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84].F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>C[N:82]1[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([C:20]2([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]2F)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84] 10,11=10,20;20,21=21"
"CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CC[O:92][C:61]([C:10](C)([CH:20]1[N-:21][C:32](OC)=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21"
"C1=CC=C(C[NH2:10])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10]CC2=CC=CC=C2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
C1=CC=C(CC2CCC[NH:10]2)C=C1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C:20]([NH+:10]2CCCC2CC2=CC=CC=C2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1 10=20
"CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si](C)(C)[C:11](C)=[CH2:10]>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][C+:11](C)[Si](C)(C)C)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20"
"C1CCCC[C:11](=[CH2:10])CCC1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[CH2:10][C+:11]1CCCCCCCC1 10,11=10,20;20,21=21,22;22,23=23"
COC1=CC=C([P:10](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>COC1=CC=C([P+:10](C2=CC=C(OC)C=C2)(C2=CC=C(OC)C=C2)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10=20
"COC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:72]2)C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=CC=[C:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCC2C(O[Si](C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1.COC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:72]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>CC(C)(C1=CC=CC=C1)[O-:21].[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C+:11]1CCCC[CH:10]1[S:20]C(F)(F)F)[Co-3:73]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
